US06358972B1
5-(4-Acetamidophenyl)-3-(1-Methylpiperidin-4-yl)-1H-Indole
The title compound was prepared by the procedure of Example 10, beginning with 3-(1-methylpiperidin-4-yl)-1H-indole-5-boronic acid (0.200 g, 0.77 mmol), 1-bromo-4-acetamidobenzene (0.158 g, 0.74 mmol), tetrakis(triphenylphosphine)palladium(0) (0.045 g, 0.039 mmol), and 2M aqueous sodium carbonate solution (2 mL) in 15 mL of tetrahydrofuran:methanol (1:1) to give the title compound (0.101 g, 40%) as an amorphous solid. FDMS m/e=348 (M+). EA calculated for C22H25N3O.¼ H2O: C, 75.07; H, 7.16; N, 11.94. Found: C, 74.94; H, 7.00; N, 11.61.

reactant | 3-(1-methylpiperidin-4-yl)-1H-indole-5-boronic acid | 0.77 mmol, 0.200 g | CN1CCC(CC1)C1=CNC2=CC=C(C=C12)B(O)O | C14H19BN2O2
reactant | 1-bromo-4-acetamidobenzene | 0.74 mmol, 0.158 g | BrC1=CC=C(C=C1)NC(C)=O | C8H8BrNO
reactant | sodium carbonate | 2M, 2 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | tetrahydrofuran methanol | 15 mL | O1CCCC1.CO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.039 mmol, 0.045 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(4-Acetamidophenyl)-3-(1-Methylpiperidin-4-yl)-1H-Indole | 0.101 g, 40% | C(C)(=O)NC1=CC=C(C=C1)C=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C22H25N3O
